US08609794B2
Dissolve 2-(4-methoxyphenoxy)tetrahydro-2H-pyran (20 g, 96 mmol, Preparation 27) in 200 mL anhydrous THF at 0° C. under nitrogen atmosphere. Add n-butyl lithium (n-BuLi) (78 mL, 1.6 M in hexanes, 125 mmol) dropwise via an additional funnel. Stir the resulting mixture at 0° C. for 3 hours. Add CH3I (7.8 mL, 125 mmol) in one batch. After 10 minutes add water. Rotary evaporate off volatiles, extract residue with Et2O and dry to give 21.3 g (100%) of 2-(4-methoxy-2-methyl-phenoxy)tetrahydro-2H-pyran as a yellow oil (21.3 g, 100%). 1H NMR (400 MHz, CDCl3) δ 7.03 (d, J=8.8 Hz, 1H), 6.75 (d, J=3.0 Hz, 1H), 6.68 (dd, J=8.8, 3.1 Hz, 1H), 5.30 (t, J=3.3 Hz, 1H), 3.96 (ddd, J=12.0, 9.2, 3.1 Hz, 1H), 3.78 (s, 3H), 3.67-3.56 (m, 1H), 2.28 (s, 3H), 2.10-1.96 (m, 1H), 1.94-1.83 (m, 2H), 1.67 (m, 3H). 13C NMR (101 MHz, CDCl3) δ 154.14, 149.33, 128.78, 116.55, 115.79, 111.08, 97.20, 62.15, 55.56, 30.73, 25.38, 19.14, 16.55.

reactant | 2-(4-methoxyphenoxy)tetrahydro-2H-pyran | 96 mmol, 20 g | COC1=CC=C(OC2OCCCC2)C=C1 | C12H16O3
reactant | n-butyl lithium | 125 mmol, 1.6 M, 78 mL | C(CCC)[Li]
reactant | CH3I | 125 mmol, 7.8 mL | CI | CH3I
reactant | water | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-(4-methoxy-2-methyl-phenoxy)tetrahydro-2H-pyran | 21.3 g | COC1=CC(=C(OC2OCCCC2)C=C1)C | C13H18O3
